US08791288B2
Piperidine enamine was prepared by a method analogous to that described in Organic Syntheses, Collective Volume 7, p 473, using 221.84 g of cyclopentane carbaldehyde instead of cyclooctane carbaldehyde. Through Michael addition of piperidine enamine to methyl vinyl ketone, cyclization by aldol condensation, dehydration, hydrolysis, and vacuum distillation for purification, there was obtained 173.4 g (yield 54%) of spiro[4.5]dec-6-en-8-one.

reactant | cyclopentane carbaldehyde | 221.84 g | C1(CCCC1)C=O | C6H10O
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | spiro[4.5]dec-6-en-8-one | 173.4 g, yield 54% | C1CCCC12C=CC(CC2)=O | C10H14O
